US04500340
150 parts by weight of β-(benzothiazol-2-yl)-4-nitrostyrene were dissolved in 1,500 parts by volume of tetrahydrofuran, and 15 parts by weight of Pd/C (10%) were added. After the mixture had been flushed with nitrogen, hydrogen was passed in. After some hours, the uptake of hydrogen (44 1) had ended, and the mixture was flushed with nitrogen again, the catalyst was filtered off and the filtrate was concentrated. 135.6 g of 4-(β-benzothiazol-2-yl-ethyl)-aniline of melting point 79°-81° C. were obtained.

reactant | β-(benzothiazol-2-yl)-4-nitrostyrene | S1C(=NC2=C1C=CC=C2)C=CC2=CC=C(C=C2)[N+](=O)[O-] | C15H10N2O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Pd/C | [Pd] | Pd
product | 4-(β-benzothiazol-2-yl-ethyl)-aniline | 135.6 g | S1C(=NC2=C1C=CC=C2)CCC2=CC=C(N)C=C2 | C15H14N2S
